******************************************************************************
* The netlist describes our monitoring scheme to detect the occurrence of faults
* and aging conditions affecting Fully Integrated Voltage Regulators (FIVRs).
* The netlist also implements a case sstudy FIVR that is representative of FIVRs
* currently adopted in high-performance microprocessors/SoCs.
******************************************************************************

****************************************************************************
* Definition of parameters with CMOS transistor sizes
****************************************************************************

.PARAM Wp='2*Wn'
.PARAM Wn=22n
.PARAM Ln=22n
.PARAM LP=22n
.PARAM Lnc=44n
.PARAM Lpc=44n


****************************************************************************
* Definition of subcircuits of logic gates and blocks that are needed
* to implement our FIVR monitor
****************************************************************************

.SUBCKT NOTxCHAIN vdd vss in out
MP1 out in vdd vdd CMOSP W=Wp L=Lpc
MN1 out in vss vss CMOSN W=Wn L=Lnc
.ENDs

.SUBCKT NOTCHAIN1 vdd vss in out
XNOT1 vdd vss in o1 NOTxCHAIN
XNOT2 vdd vss o1 o2 NOTxCHAIN
XNOT3 vdd vss o2 o3 NOTxCHAIN
XNOT4 vdd vss o3 o4 NOTxCHAIN
XNOT5 vdd vss o4 o5 NOTxCHAIN
XNOT6 vdd vss o5 o6 NOTxCHAIN
XNOT7 vdd vss o6 o7 NOTxCHAIN
XNOT8 vdd vss o7 o8 NOTxCHAIN
XNOT9 vdd vss o8 o9 NOTxCHAIN
XNOT10 vdd vss o9 o10 NOTxCHAIN
XNOT11 vdd vss o10 o11 NOTxCHAIN
XNOT12 vdd vss o11 o12 NOTxCHAIN
XNOT13 vdd vss o12 o13 NOTxCHAIN
XNOT14 vdd vss o13 o14 NOTxCHAIN
XNOT15 vdd vss o14 o15 NOTxCHAIN
XNOT16 vdd vss o15 o16 NOTxCHAIN
XNOT17 vdd vss o16 o17 NOTxCHAIN
XNOT18 vdd vss o17 o18 NOTxCHAIN
XNOT19 vdd vss o18 o19 NOTxCHAIN
XNOT20 vdd vss o19 o20 NOTxCHAIN
XNOT21 vdd vss o20 o21 NOTxCHAIN
XNOT22 vdd vss o21 o22 NOTxCHAIN
XNOT23 vdd vss o22 o23 NOTxCHAIN
XNOT24 vdd vss o23 o24 NOTxCHAIN
XNOT25 vdd vss o24 o25 NOTxCHAIN
XNOT26 vdd vss o25 o26 NOTxCHAIN
XNOT27 vdd vss o26 o27 NOTxCHAIN
XNOT28 vdd vss o27 o28 NOTxCHAIN
XNOT29 vdd vss o28 o29 NOTxCHAIN
XNOT30 vdd vss o29 o30 NOTxCHAIN
XNOT31 vdd vss o30 o31 NOTxCHAIN
XNOT32 vdd vss o31 o32 NOTxCHAIN
XNOT33 vdd vss o32 o33 NOTxCHAIN
XNOT34 vdd vss o33 o34 NOTxCHAIN
XNOT35 vdd vss o34 o35 NOTxCHAIN
XNOT36 vdd vss o35 o36 NOTxCHAIN
XNOT37 vdd vss o36 o37 NOTxCHAIN
XNOT38 vdd vss o37 o38 NOTxCHAIN
XNOT39 vdd vss o38 o39 NOTxCHAIN
XNOT40 vdd vss o39 out NOTxCHAIN
.ENDS

.SUBCKT NOTCHAIN2 vdd vss in out
XTG1 vdd vss in o1 TGxCHAIN
XNOT2 vdd vss o1 o2 NOTxCHAIN
XNOT3 vdd vss o2 o3 NOTxCHAIN
XNOT4 vdd vss o3 o4 NOTxCHAIN
XNOT5 vdd vss o4 o5 NOTxCHAIN
XNOT6 vdd vss o5 o6 NOTxCHAIN
XNOT7 vdd vss o6 o7 NOTxCHAIN
XNOT8 vdd vss o7 o8 NOTxCHAIN
XNOT9 vdd vss o8 o9 NOTxCHAIN
XNOT10 vdd vss o9 o10 NOTxCHAIN
XNOT11 vdd vss o10 o11 NOTxCHAIN
XNOT12 vdd vss o11 o12 NOTxCHAIN
XNOT13 vdd vss o12 o13 NOTxCHAIN
XNOT14 vdd vss o13 o14 NOTxCHAIN
XNOT15 vdd vss o14 o15 NOTxCHAIN
XNOT16 vdd vss o15 o16 NOTxCHAIN
XNOT17 vdd vss o16 o17 NOTxCHAIN
XNOT18 vdd vss o17 o18 NOTxCHAIN
XNOT19 vdd vss o18 o19 NOTxCHAIN
XNOT20 vdd vss o19 o20 NOTxCHAIN
XNOT21 vdd vss o20 o21 NOTxCHAIN
XNOT22 vdd vss o21 o22 NOTxCHAIN
XNOT23 vdd vss o22 o23 NOTxCHAIN
XNOT24 vdd vss o23 o24 NOTxCHAIN
XNOT25 vdd vss o24 o25 NOTxCHAIN
XNOT26 vdd vss o25 o26 NOTxCHAIN
XNOT27 vdd vss o26 o27 NOTxCHAIN
XNOT28 vdd vss o27 o28 NOTxCHAIN
XNOT29 vdd vss o28 o29 NOTxCHAIN
XNOT30 vdd vss o29 o30 NOTxCHAIN
XNOT31 vdd vss o30 o31 NOTxCHAIN
XNOT32 vdd vss o31 o32 NOTxCHAIN
XNOT33 vdd vss o32 o33 NOTxCHAIN
XNOT34 vdd vss o33 o34 NOTxCHAIN
XNOT35 vdd vss o34 o35 NOTxCHAIN
XNOT36 vdd vss o35 o36 NOTxCHAIN
XNOT37 vdd vss o36 o37 NOTxCHAIN
XNOT38 vdd vss o37 o38 NOTxCHAIN
XNOT39 vdd vss o38 o39 NOTxCHAIN
XNOT40 vdd vss o39 out NOTxCHAIN
.ENDS


.SUBCKT NOTx1 vdd vss in out
MP1 out in vdd vdd CMOSP W=Wp L=Lp
MN1 out in vss vss CMOSN W=Wn L=Ln
.ENDs

.SUBCKT C2NOTx1 vdd vss Gp Gn in out
MP1 int1 Gp vdd vdd CMOSP W='1*Wp' L=Lp
MP2 out in int1 Vdd CMOSP W='1*Wp' L=Lp
MN1 out in int2 vss CMOSN W='1*Wn' L=Ln
MN2 int2 Gn vss vss CMOSN W='1*Wn' L=Ln
.ENDs

.SUBCKT TGxCHAIN vdd vss in out
MP1 out vss in vdd CMOSP W=Wp L=Lp
MN1 out vdd in vss CMOSN W=Wn L=Ln
.ENDs

.SUBCKT NAND2in vdd vss in1 in2 out
MP1 out in1 vdd vdd CMOSP W=Wp L=Lp
MP2 out in2 vdd vdd CMOSP W=Wp L=Lp
MN1 out in1 int1 vss CMOSN W='2*Wn' L=Ln
MN2 int1 in2 vss vss CMOSN W='2*Wn' L=Lp
.ENDs

.SUBCKT NOR2in vdd vss in1 in2 out
MP1 int1 in1 vdd vdd CMOSP W='3*Wp' L=Lp
MP2 out in2 int1 vdd CMOSP W='3*Wp' L=Lp
MN1 out in1 vss vss CMOSN W='1*Wn' L=Lp
MN2 out in2 vss vss CMOSN W='1*Wn' L=Lp
.ENDS

.SUBCKT NOR3in vdd vss in1 in2 in3 out
MP1 int2 in1 vdd vdd CMOSP W='3*Wp' L=Lp
MP2 int1 in2 int2 vdd CMOSP W='3*Wp' L=Lp
MP3 out in3 int1 vdd CMOSP W='3*Wp' L=Lp
MN1 out in1 vss vss CMOSN W='1*Wn' L=Ln
MN2 out in2 vss vss CMOSN W='1*Wn' L=Lp
MN3 out in3 vss vss CMOSN W='1*Wn' L=Lp
.ENDS

* Sub-circuit for the Enable Genarator Block
.SUBCKT EnGen vdd vss RefChg Reset En nEn
XNOR vdd 0 RefChg Reset FB ONR NOR3in
C1 ONR ONR1 6pF
R1 vdd ONR1 100k
XNOTx1 vdd 0 ONR1 ONR2 NOTx1
XNOTx2 vdd 0 ONR2 ONR3 NOTx1
XNOTx3 vdd 0 ONR3 FB NOTx1
XNOTx4 vdd 0 FB En NOTx1
XNOTx5 vdd 0 En nEn NOTx1
.IC V(FB)=0v
.ENDS

* Sub-circuit for the Error Indicator (EI)
.SUBCKT EI vdd vss En nEn in1 in2 Err1 Err2
.PARAM Fc=3
XNOT1U vdd vss in1 in11 NOTx1
XC2NOT2U vdd vss nEn En in11 in12 C2NOTx1
XNOT3U vdd vss in12 Err1 NOTx1
*
MPF1U int1U in22 vdd vdd CMOSP W='Fc*Wp' L=Lp
MPF2U in11 in12 int1U vdd CMOSP W='Fc*Wp' L=Lp
MNF1U in11 in12 int2U vss CMOSN W='Fc*Wn' L=Ln
MNF2U int2U in22 vss vss CMOSN W='Fc*Wn' L=Ln
*
XNOT1D vdd vss in2 in21 NOTx1
XC2NOT2D vdd vss nEn En in21 in22 C2NOTx1
XNOT3D vdd vss in22 Err2 NOTx1
*
MPF1D int1D in12 vdd vdd CMOSP W='Fc*Wp' L=Lp
MPF2D in21 in22 int1D vdd CMOSP W='Fc*Wp' L=Lp
MNF1D in21 in22 int2D vss CMOSN W='Fc*Wn' L=Ln
MNF2D int2D in12 vss vss CMOSN W='Fc*Wn' L=Ln
*
MPResU in12 En vdd vdd CMOSP W='3*Wp' L=Lp
MNResD in22 nEn vss vss CMOSN W='3*Wn' L=Ln
.IC V(in12)=0v
.IC V(in22)=0.9v
.ENDS


*********************************************************************
* FIVR Subcircuit
*********************************************************************
* This subcircuit describes a typical FIVR used in this work to verify the
* correct operation of our monitor scheme.
* The FIVR receives as input a reference voltage Vref and produces
* an output voltage Vout that changes dynamically based on the Vref value.
*********************************************************************

.SUBCKT FIVR Vref Vout
V1 Vcc 0 1.8
L1 N008 Vout 2n
C1 Vout 0 300n
M1 N008 Vcas N001 Vcc CMOSP l=22n w=2e-3
M2 N012 Vcn 0 0 CMOSN l=22n w=0.5e-3
M3 N008 Vcas N012 0 CMOSN l=22n w=0.5e-3
M4 N001 Vcp Vcc Vcc CMOSP l=22n w=2e-3
V2 Vcas 0 0.9
V3 Vss 0 -1.8
Rf1 Vout N009 13.45k
Rf2 N009 0 35.88k
Rc1 N010 N009 204.2k
Cc1 Ve N010 136f
Cc2 Ve N009 11.13f
Cf1 N011 N009 1p
Rf3 Vout N011 431.7
XU1 N014 N009 Vcas Vss Ve level.2 Avol=100Meg GBW=10e9 Slew=10e9 ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=1e9
XU2 Vtri Ve Vcc 0 N003 level.2 Avol=100e6 GBW=10e9 Slew=10e9 ilimit=50m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=1e9
M5 N004 N003 Vcas Vcas CMOSN l=22n w=22n
M6 N004 N003 Vcc Vcc CMOSP l=22n w=88n
M7 N002 N004 Vcas Vcas CMOSN l=22n w=88n
M8 N002 N004 Vcc Vcc CMOSP l=22n w=352n
M9 N005 N002 Vcas Vcas CMOSN l=22n w=352n
M10 N005 N002 Vcc Vcc CMOSP l=22n w=1408n
M11 N006 N005 Vcas Vcas CMOSN l=22n w=1.408u
M12 N006 N005 Vcc Vcc CMOSP l=22n w=23u
M13 N007 N006 Vcas Vcas CMOSN l=22n w=5.6u
M14 N007 N006 Vcc Vcc CMOSP l=22n w=5632n
M15 Vcp N007 Vcas Vcas CMOSN l=22n w=22.5u
M16 Vcp N007 Vcc Vcc CMOSP l=22n w=100u
M17 N015 N003 0 0 CMOSN l=22n w=22n
M18 N015 N003 Vcas Vcas CMOSP l=22n w=88n
M19 N013 N015 0 0 CMOSN l=22n w=88n
M20 N013 N015 Vcas Vcas CMOSP l=22n w=352n
M21 N016 N013 0 0 CMOSN l=22n w=352n
M22 N016 N013 Vcas Vcas CMOSP l=22n w=1408n
M23 N017 N016 0 0 CMOSN l=22n w=1.408u
M24 N017 N016 Vcas Vcas CMOSP l=22n w=23u
M25 N018 N017 0 0 CMOSN l=22n w=5.6u
M26 N018 N017 Vcas Vcas CMOSP l=22n w=5632n
M27 Vcn N018 0 0 CMOSN l=22n w=22.5u
M28 Vcn N018 Vcas Vcas CMOSP l=22n w=92u
C2 Vtri N020 2.7p
Vin1 N019 0 1.4
R1 N020 N019 1k
R2 0 N021 1k
R5 N019 N021 1k
R6 Vth 0 1k
R7 Vquad Vth 800
V7 Vss2 0 -0.9
S1 Vss2 Vth En 0 switch
V8 En 0 0
M29 N020 Vquad 0 0 CMOSN l=22n w=22n m=35
XU3 Vth Vtri Vcas 0 Vquad level.2 Avol=100e6 GBW=100e9 Slew=100e9 ilimit=50m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=1e9
XU4 N021 N020 Vcas Vss2 Vtri level.2 Avol=100Meg GBW=100e9 Slew=100e9 ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=1e9
R3 N014 Vref 375
R4 0 N014 1k
Iload Vout 0 100m
.model NMOS NMOS
.model PMOS PMOS
.model switch SW(Ron=0.01 Roff=1e9 Vt=0.5v)
.param IL=500m
.ENDs

*********************************************************************
*The following line recalls the FIRV sub-circuit
*and places it in the main circuit
*********************************************************************
XFIVR Vref Vout FIVR


*********************************************************************
* The following lines describes the proposed FIVR monitor scheme.
*
* The monitor enables to detect:
* - the generation of a FIVR Vout falling outside a tolerance margin of 5%
*   with respect to the Vref;
* - a degred FIVR response time to change Vout after a change in Vref (degraded due to BTI)
*   that is 10% higher than the FIVR response time at time 0 (i.e., with no aging).
*
* The monitor receives as inputs: *
* - the reference Vref;
* - the FIVR output voltage Vout;
* - a synchronization signal RefChg, that presents a pulse each time Vref is changed;
* - a reset signal (Rs) to reset error indications.
*
* The monitor produces two outputs Err1 and Err2.
*
* If the FIVR Vout is inside the tolerance margin and if the FIVR response time is lower
* than the tolerable response time, the outputs (Err1, Err2) = (1,0) or (0,1).
*
* Instead, if Vout is outside the tolerance margin, or if the response time is higher
* than 10% (due to BTI), our monitor makes (Err1, Err2) = (0, 0) or (1, 1) until Rs=1.
*********************************************************************
XDelayChain1 Vout 0 ck O1 NOTCHAIN1
XDelayChain2 Vref 0 ck O2 NOTCHAIN2

XNANDout1 Vout 0 En O1 In1 NAND2in
XNANDout2 Vout 0 nEn O2 In2 NOR2in

XEnGen Vinhalf 0 RefChg Rs En nEn EnGen

XErrorInd Vinhalf 0 En nEn In1 In2 Err1 Err2 EI


*********************************************************************
* Voltage Sources
*********************************************************************
Vhalf Vinhalf 0 0.9v
Vck   CK      0 PULSE(0 0.9v 0s 10p 10p 50n '2*50n')

V_ref   Vref   0 PWL(0s 0.9v
+1u 0.9v 1.007u 1.1v
+2u 1.1v 2.007u 0.8v
+3u 0.8v 3.007u 1.1v)

VRefChg RefChg 0 PWL(0s 0v
+1u 0v   1.007u 0.9v   1.01u 0.9v   1.017u 0v
+2u 0v   2.007u 0.9v   2.01u 0.9v   2.017u 0v
+3u 0v   3.007u 0.9v   3.01u 0.9v   3.017u 0v)

VReset  Rs	0 0 PULSE(0v 0.9v 0s 10p 10p 350n 100u)


*********************************************************************
* Technology Libraries and Command for Analysis
*********************************************************************
.include '22nm.lib'
.lib standard.mos
.lib UniversalOpamps2.sub

.tran 0 4u

.end





